US07091220B2
[(7-Ethyl-1H-indol-3-yl)-phenylmethyl]-dimethylamine
The preparation was carried out in accordance with general synthesis instructions 4 from 7-ethyl-1H-indole and benzylidene-dimethyl-ammonium chloride, which had been prepared in accordance with example 1.

reactant | 7-ethyl-1H-indole | C(C)C=1C=CC=C2C=CNC12 | C10H11N
reactant | benzylidene-dimethyl-ammonium chloride | [Cl-].C(C1=CC=CC=C1)=[N+](C)C
product | [(7-Ethyl-1H-indol-3-yl)-phenylmethyl]-dimethylamine | C(C)C=1C=CC=C2C(=CNC12)C(C1=CC=CC=C1)N(C)C | C19H22N2
